US07153517B2
2) Synthesis of 4-(3-butenyloxy)-phenyl 4-methoxybenzoate (2)
In an Erlenmeyer flask equipped with a magnetic stirrer, add to 60 ml alcohol-free dichloromethane a mixture composed of 30 mmol of phenol, 33 mmol of anisoic acid (Aldrich), 33 mmol of dehydrating agent (N,N′-dicyclohexylcarbodiimide (D.C.C.)) and 3.3 mmol of catalyst (4-dimethylaminopyridine (D.M.A.P.)). The reaction is carried out for 12 hours at ambient temperature and protected from light. The product is filtered in order to eliminate the hydrated D.C.C. After evaporation of the solvent, the pure product is obtained after three recrystallizations from ethanol.

reactant | phenol | 30 mmol | C1(=CC=CC=C1)O | C6H6O
reactant | anisoic acid | 33 mmol | C(C1=CC=C(C=C1)OC)(=O)O | C8H8O3
reactant | N,N′-dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | 4-(3-butenyloxy)-phenyl 4-methoxybenzoate | COC1=CC=C(C(=O)OC2=CC=C(C=C2)OCCC=C)C=C1 | C18H18O4
